US07786129B2
5-Chloro-3-ethyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared from 5-chloro-oxindole according to methods known from the literature [B. Volk, T. Mezei, Gy. Simig Synthesis 2002, 595]. 1.68 g (0.01 mole) of 5-chloro-oxindole is dissolved in 20 ml of ethanol and 1.0 g of Raney-nickel is added to the solution. The mixture is allowed to react in an autoclave at 110° C. for 36 hours. The catalyst is then filtered off, the solvent is evaporated, and the residue is recrystallized from a mixture of hexane and ethyl acetate.

reactant | 5-chloro-oxindole | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | 5-chloro-oxindole | 0.01 mole, 1.68 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 1.0 g | [Ni] | Ni
product | 5-Chloro-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)CC | C10H10ClNO
